US05998436
Synthesis of 8-chloro-6,7-difluoro-1-(3,5-difluoro-6-methylaminopyridin-2-yl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid
To 3 ml of a mixed solution (1:1, v/v) of 4 ml of 4N hydrochloric acid and 1 ml of acetic acid was added 510 mg of ethyl 8-chloro-6,7-difluoro-1-(3,5-difluoro-6-methylaminopyridin-2-yl)-4-oxo-1,4-dihydroquinoline-3-carboxylate, and the mixture was heated under reflux with stirring for 2.5 hours. After adding 2 ml of distilled water, the mixture was allowed to cool, and the precipitate was collected by filtration and washed with ethanol and diisopropylether successively to obtain 454 mg of the title compound as a gray powder.

reactant | hydrochloric acid | 4N, 4 ml | Cl | ClH
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
reactant | ethyl 8-chloro-6,7-difluoro-1-(3,5-difluoro-6-methylaminopyridin-2-yl)-4-oxo-1,4-dihydroquinoline-3-carboxylate | 510 mg | ClC=1C(=C(C=C2C(C(=CN(C12)C1=NC(=C(C=C1F)F)NC)C(=O)OCC)=O)F)F | C18H12ClF4N3O3
solvent | water | 2 ml | O | H2O
product | 8-chloro-6,7-difluoro-1-(3,5-difluoro-6-methylaminopyridin-2-yl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 454 mg | ClC=1C(=C(C=C2C(C(=CN(C12)C1=NC(=C(C=C1F)F)NC)C(=O)O)=O)F)F | C16H8ClF4N3O3
